US05066663
A mixture of γ-butyrolactone (1 mol) and tris(dimethylamino)methane (1.5 mol) is stirred under dry nitrogen at 75° C. for 2 days to give 3-[(dimethylamino)methylene]dihydro-2(3H)-furanone. A solution containing 3-[(dimethylamino)methylene]dihydro-2(3H)-furanone (1 mol), n-butanethiol (1.1 mol) and para-toluenesulfonic acid (1 mol) in benzene is heated at reflux overnight to give upon aqueous work-up 3-[(butylthio)methylene]dihydro-2(3H)-furanone. After a solution of 3-[(butylthio)methylene]dihydro-2(3H)-furanone (1 mol) in anhydrous diethyl ether is added to a solution of lithium di-n-butylcuprate (1.1 mol) in diethyl ether at -78° C., the resulting mixture is stirred at -78° C. for an additional 0.5 hours and then quenched with methanol. Work-up affords 3-ethylidenedihydro-2(3H)-furanone. Freshly prepared W-2 Raney nickel (about 3 parts) is deactivated by refluxing in benzene for 1 hour, whereupon 3-ethylidenedihydro-2(3H)-furanone is added and the mixture is heated at reflux under nitrogen for 24-48 hours; the reaction is monitored by thin layer chromatography. After complete washing of the Raney nickel with hot benzene, the title compound is obtained.

reactant | 3-[(dimethylamino)methylene]dihydro-2(3H)-furanone | 1 mol | CN(C)C=C1C(OCC1)=O | C7H11NO2
reactant | n-butanethiol | 1.1 mol | C(CCC)S | C4H10S
reactant | para-toluenesulfonic acid | 1 mol | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-[(butylthio)methylene]dihydro-2(3H)-furanone | C(CCC)SC=C1C(OCC1)=O | C9H14O2S
